US07741321B2
To a solution of tert-butyl 6-(4-(N-methylsulfamoyl)phenyl)pyridin-2-ylcarbamate (8.5 g, 23.4 mmol) in MeOH (10 mL) was added HCl/MeOH (2M, 50 mL) at room temperature. The suspension was stirred at room temperature overnight. The solid product was collected by filtration, washed with MeOH, and dried to give 4-(6-aminopyridin-2-yl)-N-methylbenzenesulfonamide hydrochloride (5.0 g, 71%). 1H NMR (300 Hz, DMSO-d6) δ 8.12 (d, J=8.4 Hz, 2H), 7.91-7.96 (m, 3H), 7.58-7.66 (m, 1H), 7.31-7.53 (m, 1H), 7.27 (d, J=6.6, 1H), 6.97 (d, J=9.0, 1H), 2.43 (d, J=4.8 Hz, 3H). MS (ESI) m/z (M+H)+ 264.0.

reactant | tert-butyl 6-(4-(N-methylsulfamoyl)phenyl)pyridin-2-ylcarbamate | 23.4 mmol, 8.5 g | CNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC(=N1)NC(OC(C)(C)C)=O | C17H21N3O4S
reactant | HCl MeOH | 2M, 50 mL | Cl.CO
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(6-aminopyridin-2-yl)-N-methylbenzenesulfonamide hydrochloride | 5.0 g, 71% | Cl.NC1=CC=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)NC | InChI=1S/C12H13N3O2S.ClH/c1-14-18(16,17)10-7-5-9(6-8-10)11-3-2-4-12(13)15-11;/h2-8,14H,1H3,(H2,13,15);1H
